US05604229
2-Acetamido-1,3-diacetoxy-2-icosylpropane (1.5 g) was dissolved in 40 ml of methanol and 9.6 ml of a 1N aqueous sodium hydroxide solution was added thereto. The mixture was refluxed under heating for 6 hours. The mixture was neutralized with a 1N aqueous hydrochloric acid solution and the reaction mixture was concentrated under reduced pressure. The concentrate was washed with water and ethyl acetate:hexane =1:1 in order to give 817 mg of 2-amino-2-icosyl-1,3-propanediol hydrochloride.

reactant | 2-Acetamido-1,3-diacetoxy-2-icosylpropane | 1.5 g | C(C)(=O)NC(COC(C)=O)(COC(C)=O)CCCCCCCCCCCCCCCCCCCC | C29H55NO5
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
product | 2-amino-2-icosyl-1,3-propanediol hydrochloride | 817 mg | Cl.NC(CO)(CO)CCCCCCCCCCCCCCCCCCCC | InChI=1S/C23H49NO2.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-23(24,21-25)22-26;/h25-26H,2-22,24H2,1H3;1H
